US04123250
Preparation of N-Isopropyl-4-methyl-3-methoxy-2,6-dinitroaniline
To a stirred solution of 5.47 g. (0.02 mole) of 3-chloro-N-isopropyl-4-methyl-2,6-dinitroaniline in 100 ml. of methanol is added 1.79 g. (0.033 mole) of sodium methoxide. The reaction mixture is stirred at reflux for three hours, cooled to room temperature and filtered. The filtrate is evaporated at reduced pressure and the residue partitioned between ether and dilute aqueous hydrochloric acid. The organic phase is successively washed with water, saturated sodium bicarbonate and brine. It is then dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo gives 5.0 g. of the desired product having a m.p. of 72°-77° C. Two recrystallizations from methanol give the analytical sample, m.p. 77.5°-79° C. Analysis: Calcd. for C11H15N3O5 : C, 49.07; H, 5.62; N, 15.61. Found: C, 49.35; H, 5.66; N, 15.77.

reactant | 3-chloro-N-isopropyl-4-methyl-2,6-dinitroaniline | 0.02 mole | ClC=1C(=C(NC(C)C)C(=CC1C)[N+](=O)[O-])[N+](=O)[O-] | C10H12ClN3O4
reactant | sodium methoxide | 0.033 mole | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-Isopropyl-4-methyl-3-methoxy-2,6-dinitroaniline | C(C)(C)NC1=C(C(=C(C=C1[N+](=O)[O-])C)OC)[N+](=O)[O-] | C11H15N3O5
